US09212190B2
Synthesis of (2S)-2-hydroxy-3-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide (I-149)
Into a 50-mL round-bottom flask, a solution of (2S)-2-hydroxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide hydrochloride (110 mg, 0.26 mmol, 1.00 equiv), potassium carbonate (179 mg, 1.30 mmol, 5.03 equiv) and 2-chloro-1-(pyrrolidin-1-yl)ethan-1-one (152 mg, 1.03 mmol, 4.00 equiv) in N,N-dimethylformamide (6 mL) was stirred overnight at room temperature. The resulting solution was diluted with 20 mL of water. The resulting solution was extracted with 4×20 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. The crude product was purified by flash preparative HPLC under the following conditions (IntelFlash-1): column: silica gel; mobile phase; Detector, UV 254 nm. This resulted in (2S)-2-hydroxy-3-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide (63.8 mg, 49%) as a white solid. 1H NMR (400 MHz, CD3OD): δ 8.47 (s, 1H), 5.28 (m, 1H), 4.17-4.14 (m, 1H), 3.59-3.32 (m, 7H), 3.15-2.98 (m, 2H), 2.76-2.70 (m, 2H), 2.52-2.33 (m, 7H), 2.04-1.89 (m, 6H), 1.74-1.53 (m, 5H). MS: m/z 502 (M+H)+.

reactant | (2S)-2-hydroxy-3-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide hydrochloride | 0.26 mmol, 110 mg, 1.00 equiv | Cl.O[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC
reactant | potassium carbonate | 1.30 mmol, 179 mg, 5.03 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-1-(pyrrolidin-1-yl)ethan-1-one | 1.03 mmol, 152 mg, 4.00 equiv | ClCC(=O)N1CCCC1 | C6H10ClNO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | (2S)-2-hydroxy-3-[(3R)-12-[(4-[methyl[2-oxo-2-(pyrrolidin-1-yl)ethyl]amino]cyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]propanamide | O[C@H](C(=O)N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(CC(N1CCCC1)=O)C | C25H35N5O4S
